US04680283
Step A: Preparation of tert-Butyloxycarbonyl-D-methionyl-L-leucine methylester
Boc-D-methionine (34.2 g, 0.137 mole) and L-leucine methylester hydrochloride (25.0 g, 0.137 mole) was dissolved in 450 ml of methylene chloride and triethylamine (19.15 ml, 13.9 g, 0.137 mole) was added. Dicyclohexylcarbodiimide (62 ml of a 0.5 g/ml solution in CH2Cl2, 0.15 mole) was then added followed by stirring at room temperature overnight. The mixture was filtered and the filtrate was extracted with three 150 ml portions of dilute citric acid and three 150 ml portions of 1N sodium biocarbonate. After drying with sodium sulfate, the solution was concentrated in vacuo. Chromatography of the crude material on silica gel eluting with ethyl acetate-hexane (1:1; 2:1) followed by ethyl acetate gave pure product which crystallized from ethyl acetate-hexane to give 28.4 g of product (53%), m.p. 61°-64°. The nmr spectrum was consistent with the expected structure.

reactant | Boc-D-methionine | 0.137 mole, 34.2 g | C(=O)(OC(C)(C)C)N[C@H](CCSC)C(=O)O | C10H19NO4S
reactant | L-leucine methylester hydrochloride | 0.137 mole, 25.0 g | Cl.COC([C@@H](N)CC(C)C)=O
reactant | triethylamine | 0.137 mole, 19.15 ml, 13.9 g | C(C)N(CC)CC | C6H15N
reactant | Dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 450 ml | C(Cl)Cl | CH2Cl2
product | tert-Butyloxycarbonyl-D-methionyl-L-leucine methylester | 28.4 g, 53% | COC([C@@H](NC([C@H](NC(=O)OC(C)(C)C)CCSC)=O)CC(C)C)=O | C17H32N2O5S
